US09233946B2
3-({[5-(Acetylamino)-3-methyl-1-benzothien-2-yl]sulfonyl}amino)benzoic acid
A solution of methyl 3-{[(5-amino-3-methyl-1-benzothien-2-yl)sulfonyl]amino}benzoate (7 mg, 0.019 mmol) in CH2Cl2 (200 uL), acetic anhydride (5 mg, 0.022 mmol) and pyridine (11 uL) was stirred at room temperature over night. The mixture was concentrated and dissolved in THF/water (1 mL) and LiOH (1 mg, 0.024 mmol) was added. The diacetylated intermediate was hydrolyzed at room temperature for 4 h. The crude product was purified by preparative HPLC (ACE C8, 5 μm, 21×50 mm, flow 25 ml/min, 50 mM NH4OAc in water/MeCN) to give 4.3 mg (56%) of the title compound. MS (ESI+) calcd for C18H16N2O5S2 404.050063, found 404.050323.

reactant | methyl 3-{[(5-amino-3-methyl-1-benzothien-2-yl)sulfonyl]amino}benzoate | 0.019 mmol, 7 mg | NC=1C=CC2=C(C(=C(S2)S(=O)(=O)NC=2C=C(C(=O)OC)C=CC2)C)C1 | C17H16N2O4S2
reactant | acetic anhydride | 0.022 mmol, 5 mg | C(C)(=O)OC(C)=O | C4H6O3
reactant | pyridine | 11 uL | N1=CC=CC=C1 | C5H5N
reactant | LiOH | 0.024 mmol, 1 mg | [Li+].[OH-]
solvent | CH2Cl2 | 200 uL | C(Cl)Cl | CH2Cl2
product | 3-({[5-(Acetylamino)-3-methyl-1-benzothien-2-yl]sulfonyl}amino)benzoic acid | 4.3 mg, 56% | C(C)(=O)NC=1C=CC2=C(C(=C(S2)S(=O)(=O)NC=2C=C(C(=O)O)C=CC2)C)C1 | C18H16N2O5S2
